US06790850B1
a) 3-methyl-4-(methylthio)benzaldehyde
Tin (IV) chloride (13.6 ml, 0.116 mol) was added to an ice-bath cooled solution of 1-methyl-2-(methylthio)benzene (10 g, 0.073 mol) in anhydrous dichloromethane (200 ml) under nitrogen and stirred for a further 2 hours at 0° C. α,α-Dichloromethyl methyl ether (6.56 ml, 0.073 mol) was introduced and the reaction stirred for 1 hour at <10° C. before the cooling was removed. After attaining room temperature, the reaction mixture was poured into ice/water (400 ml), stirred and then extracted with dichloromethane (×3). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, concentrated onto silica gel and purified by flash chromatography, eluting with diethyl ether/isohexane (10:1) to yield the sub-title compound as a brown oil (6.54 g) in 54% yield.

reactant | Tin (IV) chloride | 0.116 mol, 13.6 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | 1-methyl-2-(methylthio)benzene | 0.073 mol, 10 g | CC1=C(C=CC=C1)SC | C8H10S
reactant | α,α-Dichloromethyl methyl ether | 0.073 mol, 6.56 ml | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-methyl-4-(methylthio)benzaldehyde | 6.54 g, 54% yield | CC=1C=C(C=O)C=CC1SC | C9H10OS
